US08258130B2
2-(3-Fluoro-phenyl)-pyrimidine-5-carboxylic acid (4-cyclopentyl-piperazin-1-yl)-amide
Following procedures similar to those of Example 64 but using substituting 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid for 2-phenyl-4-yl-pyrimidine-5-carboxylic acid, and substituting 4-cyclopentyl-piperazin-1-ylamine for 3-{3-amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester, there is prepared 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (4-cyclopentyl-piperazin-1-yl-amide (64%) as a solid. MS: 370 (M+H).

reactant | 4-cyclopentyl-piperazin-1-ylamine | C1(CCCC1)N1CCN(CC1)N | C9H19N3
reactant | 3-amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester | COC(CCC=1C(N(C(NC1)=O)N)=O)=O | C8H11N3O4
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | 4-cyclopentyl-piperazin-1-yl-amide | C1(CCCC1)N1CCN(CC1)[NH-]
product | 2-(3-Fluoro-phenyl)-pyrimidine-5-carboxylic acid (4-cyclopentyl-piperazin-1-yl)-amide | C1(CCCC1)N1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C20H24FN5O
